US04006145
80 g of 3-fluoro-6-(phenylthio)-phenylacetonitrile, 225 ml of ethanol, 75.5 g of potassium hydroxide and 225 ml of water are heated under reflux for 9 hours. The ethanol is subsequently evaporated off under reflux and the residue treated with water until completely dissolved, whereafter the neutral constituents are extracted with benzene. The aqueous solution is acidified with concentrated hydrochloric acid and extracted with chloroform. The organic phase is washed with water, dried over sodium sulphate and evaporated under reduced pressure. There is obtained 3-fluoro-6-(phenylthio)-phenylacetic acid which melts at 80°-83° C.

reactant | 3-fluoro-6-(phenylthio)-phenylacetonitrile | 80 g | FC=1C=C(C(=CC1)SC1=CC=CC=C1)CC#N | C14H10FNS
reactant | ethanol | 225 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 75.5 g | [OH-].[K+]
solvent | water | 225 ml | O | H2O
product | 3-fluoro-6-(phenylthio)-phenylacetic acid | FC=1C=C(C(=CC1)SC1=CC=CC=C1)CC(=O)O | C14H11FO2S
